US04963564
3-(Phenylmethoxy)-2-pyridinepropanol
A solution of (E)-methyl 3-[3-(phenylmethoxy)-2-pyridinyl]-2-propenoate (12.0 g) in dry ether (100 ml) was added to a stirred suspension of lithium aluminium hydride (5 g) in ether (200 ml) under nitrogen. The mixture was heated at reflux overnight and treated successively with water (5 ml), 2N sodium hydroxide (10 ml) and water (100 ml). Ethyl acetate (250 ml) was added and the mixture was filtered. The solution was washed with water and brine, dried and concentrated to an oil which was purified by FCC eluting with cyclohexane/ethyl acetate/triethylamine (80:20:1) followed by ethyl acetate/triethylamine (99:1) to give the title compound as a pale orange oil (1.4 g), t.l.c. (ethyl acetate/triethylamine 99:1) Rf 0.21.

reactant | (E)-methyl 3-[3-(phenylmethoxy)-2-pyridinyl]-2-propenoate | 12.0 g | C1(=CC=CC=C1)COC=1C(=NC=CC1)/C=C/C(=O)OC | C16H15NO3
reactant | lithium aluminium hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | Ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Phenylmethoxy)-2-pyridinepropanol | 1.4 g | C1(=CC=CC=C1)COC=1C(=NC=CC1)CCCO | C15H17NO2
